US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-isopropyl-2-methyl-1H-imidazole-4-carboxamide was prepared using the method of Example 253 starting from (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide and 2-iodopropane. 1H NMR (400 MHz, CDCl3): 1.22 (3H, d), 1.43 (6H, d), 2.42 (3H, s), 4.29 (2H, m), 4.39 (1H, distorted dd), 4.57 (1H, m), 6.61 (1H, d), 7.49 (1H, d), 7.56 (1H, s), 7.59 (1H, d), 7.66 (1H, d), 7.86 (1H, dd), 8.00 (1H, d).

reactant | (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(NC1)C | C18H17ClN6O
reactant | 2-iodopropane | IC(C)C | C3H7I
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-isopropyl-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)C(C)C)C | C21H23ClN6O
